US07452893B2
Step 1: trans-2-[4-(5-Methyl-2-phenyl-hex-2-enyloxy)-cyclohexyl]-isoindole-1,3-dione
To a stirred mixture of 1 g of trans-2-(4-(tert-butyl-dimethyl-silyloxy-cyclohexyl)-isoindole-1,3-dione, 20 mL of anhydrous acetonitrile, 0.8 mL of triethylsilane and 0.6 g of 5-methyl-2-phenyl-2-hexenal (commercial, predominantly trans was added ) 0.08 g of bismuth tribromide. After stirring for 1.3 h, the reaction was quenched with 10 mL of saturated sodium bicarbonate and extracted with 3×25 mL portions of ethyl acetate. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 1%-20% ethyl acetate in hexane gave first 0.30 g of saturated product, trans-2-[4-(5-methyl-2-phenyl-hexyloxy)-cyclohexyl]-isoindole-1,3-dione, then 0.50 g of product as a resin: 1H NMR (400 MHz, CDCl3) 7.8 (m, 2H), 7.7 (m, 2H), 7.3-7.1 (m, 5H), 5.8 (t, 1H), 4.25 (s, 2H), 4.15 (m, 2H), 3.4 (m, 1H), 2.3 (m, 2H), 2.1 (d, 2H), 1.9 (t, 2H), 1.75 (d, 2H), 1.65 (, 1H), 1.35 (m, 2H), 1.3 (t, 2H), 0.9 (d, 6H).

reactant | 4-(tert-butyl-dimethyl-silyloxy-cyclohexyl)-isoindole-1,3-dione | C(C)(C)(C)C1C(CCC(C1)(C)C)(C1=C2C(NC(C2=CC=C1)=O)=O)O[SiH3] | C20H29NO3Si
reactant | triethylsilane | 0.8 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | 5-methyl-2-phenyl-2-hexenal | 0.6 g | CC(CC=C(C=O)C1=CC=CC=C1)C | C13H16O
reactant | bismuth tribromide | 0.08 g | [Bi](Br)(Br)Br
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | trans-2-[4-(5-Methyl-2-phenyl-hex-2-enyloxy)-cyclohexyl]-isoindole-1,3-dione | 0.30 g | CC(CC=C(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1)C | C27H31NO3
